US07855206B2
Step A: tert-Butyl 8-amino-2-methyl-5H-pyrazolo[1,5-a]pyrrolo[3,4-d]pyrimidine-6(7H)-carboxylate
To a stirred solution of 250 mg (1.19 mmol) of tert-butyl 3-cyano-4-oxopyrrolidine-1 carboxylate in ethanol (5 mL) was added 115 mg (1.19 mmol) of 3-methyl-1H-pyrazol-5-amine. The reaction mixture was refluxed for 1 h, cooled to ambient temperature and the solvent evaporated in vacuo. The resulting residue was chromatographed on a Biotage Horizon® system (silica gel, 0 to 100% ethyl acetate/hexanes gradient) to yield the title compound as a white solid. LC/MS 290.1 (M+1).

reactant | tert-butyl 3-cyano-4-oxopyrrolidine-1 carboxylate | 1.19 mmol, 250 mg | C(#N)C1CN(CC1=O)C(=O)OC(C)(C)C | C10H14N2O3
reactant | 3-methyl-1H-pyrazol-5-amine | 1.19 mmol, 115 mg | CC1=NNC(=C1)N | C4H7N3
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | tert-Butyl 8-amino-2-methyl-5H-pyrazolo[1,5-a]pyrrolo[3,4-d]pyrimidine-6(7H)-carboxylate | NC1=C2C(=NC=3N1N=C(C3)C)CN(C2)C(=O)OC(C)(C)C | C14H19N5O2
